US06166006
To a solution of 7-(4-methylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid (0.28 g), 4-(N-cyclohexyl-N-methylaminomethyl)aniline (0.24 g) and 1-hydroxybenzotriazole (0.15 g) in dimethylformamide (10 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.29 g) under ice-cooling. Under nitrogen atmosphere, the mixture was cooled to room temperature, and to the mixture were added 4-dimethylaminopyridine (3 mg) and triethylamine (0.42 ml). The mixture was stirred for 20 hours, poured into water, and extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was washed with ethyl acetate and dried to give N-(4-(N-cyclohexyl-N-methylaminomethyl)phenyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide (0.40 g).

reactant | 7-(4-methylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid | 0.28 g | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C18H16O3
reactant | 4-(N-cyclohexyl-N-methylaminomethyl)aniline | 0.24 g | C1(CCCCC1)N(C)CC1=CC=C(N)C=C1 | C14H22N2
reactant | 1-hydroxybenzotriazole | 0.15 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.29 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
product | N-(4-(N-cyclohexyl-N-methylaminomethyl)phenyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide | 0.40 g | C1(CCCCC1)N(C)CC1=CC=C(C=C1)NC(=O)C=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C32H36N2O2
